US07214800B2
To a solution of (±)-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (1.62 g, 3.16 mmol) in dichloromethane (40 mL) was added trifluoroacetic acid (10 mL). The resultant solution was maintained at ambient temperature overnight and concentrated under reduced pressure. The residue was dissolved in dichloromethane (50 mL) and washed with saturated aqueous sodium bicarbonate (40 mL). The aqueous layer was extracted with dichloromethane (50 mL) and the combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give (±)-2-[1-(2-amino-2-methyl-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one (1.29 g, 99%) as a yellow solid which was used in the subsequent step without purification.

reactant | (±)-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 3.16 mmol, 1.62 g | C(C)(C)(C)OC(NC(CNC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)(C)C)=O | C28H37ClN4O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (±)-2-[1-(2-amino-2-methyl-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one | 1.29 g, 99% | NC(CNC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)(C)C | C23H29ClN4O
